US04775671
6.2 g (18 mmol) of 7-bromo-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid in 90 ml of N,N-dimethylformamide are stirred at 70° for 2.5 hours with 2.92 g (18 mmol) of N,N'-carbonyldiimidazole. 1.80 g (18 mmol) of cyclopropanecarboxamidoxime are subsequently added thereto and the mixture is stirred at 100° for a further 2 hours. The solution is evaporated, the residue is treated with 70 ml of acetic acid and the mixture is stirred at 120° for 5 hours. The reaction mixture is evaporated and the residue is partitioned between methylene chloride and saturated sodium bicarbonate solution. The organic phase is dried over magnesium sulphate and evaporated. By chromatography on silica gel while eluting with ethyl acetate and recrystallization from acetonitrile there is obtained 7-bromo-4,5-dihydro-3-(3-cyclopropyl-1,2,4-oxadiazol-5yl)-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 187°-189°.

reactant | 7-bromo-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid | 18 mmol, 6.2 g | BrC1=CC=CC2=C1C(N(CC=1N2C=NC1C(=O)O)C)=O | C13H10BrN3O3
reactant | cyclopropanecarboxamidoxime | 18 mmol, 1.80 g | C1(CC1)C(N)=NO | C4H8N2O
solvent | N,N-dimethylformamide | 90 ml | CN(C=O)C | C3H7NO
product | 7-bromo-4,5-dihydro-3-(3-cyclopropyl-1,2,4-oxadiazol-5yl)-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | BrC1=CC=CC2=C1C(N(CC=1N2C=NC1C1=NC(=NO1)C1CC1)C)=O | C17H14BrN5O2
